US04777281
2-(3-Oxobutyl)-7,8-dichloro-6-methoxy-2-propyl-1-tetralone (700 mg), ethanol (25 ml), water (6 ml) and 10N sodium hydroxide solution (200 μl) were combined and stirred at room temperature for 96 hours. The reaction mixture was evaporated in vacuo at 30° C. treated with water, extracted two times with 100 ml of ether, washed with water, brine dried over MgSO4, evaporated in vacuo, and chromatographed on 25 g of SiO2 (ethyl acetate-hexane; 1:2) to give 350 mg of 3,4-Dichloro-6,7,8,8a,9,10-hexahydro-2-methoxy-6-oxo-8a-propylphenanthrene which was used in the next step.

reactant | 2-(3-Oxobutyl)-7,8-dichloro-6-methoxy-2-propyl-1-tetralone | 700 mg | O=C(CCC1(C(C2=C(C(=C(C=C2CC1)OC)Cl)Cl)=O)CCC)C | C18H22Cl2O3
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 10N, 200 μl | [OH-].[Na+]
solvent | water | 6 ml | O | H2O
product | 3,4-Dichloro-6,7,8,8a,9,10-hexahydro-2-methoxy-6-oxo-8a-propylphenanthrene | 350 mg | ClC=1C(=CC=2CCC3(CCC(C=C3C2C1Cl)=O)CCC)OC | C18H20Cl2O2
